US04839357
To a solution of methyl-2-benzylacrylate (20 gm, 0.113 mol) in methanol (100 ml) at room temperature was added a solution of sodium methoxide (2N, 17 ml) followed by isopropylthiol (12.56 ml). TLC (4:1, Hexanes: ethyl acetate) showed reaction to be complete after 30 min. The reaction mixture was made acidic with 1N HCl and extracted three times with ethyl acetate. The combined organic fractions were dried over NaSO4, filtered and evaporated in vacuo. The crude product was purified by chromatography (silica 4:1, hexanes: ethyl acetate to give methyl-3-isopropylthio-2-benzylpropionate.

reactant | methyl-2-benzylacrylate | 0.113 mol, 20 gm | COC(C(=C)CC1=CC=CC=C1)=O | C11H12O2
reactant | sodium methoxide | 2N, 17 ml | C[O-].[Na+]
reactant | isopropylthiol | 12.56 ml | CC(C)S | C3H8S
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl-3-isopropylthio-2-benzylpropionate | COC(C(CSC(C)C)CC1=CC=CC=C1)=O | C14H20O2S
